US05932735
1-Oxyl-2,2,6,6-tetramethyl-4-allyloxypiperidine
A vigorously stirred two phase solution of 30.0 g (0.17 mol) 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 29.0 g (0.24 mol) of allyl bromide, 2.6 g (8 mmol) of tetrabutylammonium bromide, 100 mL of 50% aqueous sodium hydroxide and 30 mL of toluene is heated at 70° C. for 90 minutes. The mixture is partitioned between 100 mL of toluene, 100 mL of heptane and 200 mL of water. The organic phase is dried over anhydrous magnesium sulfate and concentrated to yield the title compound as a red oil after column chromatography.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 0.17 mol, 30.0 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | allyl bromide | 0.24 mol, 29.0 g | C(C=C)Br | C3H5Br
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 8 mmol, 2.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Oxyl-2,2,6,6-tetramethyl-4-allyloxypiperidine | ON1C(CC(CC1(C)C)OCC=C)(C)C | C12H23NO2
